US07592453B2
Benzyl (2-oxoethyl)carbamate
A solution (30 ml) of oxalyl chloride (1.72 ml, 20.0 mmol) in dichloromethane was added dropwise to a solution (10 ml) of dimethyl sulfoxide (2.84 ml, 40.0 mmol) in dichloromethane at −78° C., and the mixture was stirred at the same temperature for 5 min. A solution (45 ml) of benzyl(2-hydroxyethyl)carbamate (1.95 g, 10.0 mmol) in dichloromethane was added to the reaction mixture and the mixture was further stirred for 15 min. Triethylamine (6.93 ml, 50.0 mmol) was added, and the mixture was stirred for 5 min. The temperature was raised to room temperature and the reaction mixture was stirred for 1.5 hrs. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous MgSO4, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (7:3-3:2, v/v) to give the title compound (930 mg, 48%) as a colorless oil.

reactant | oxalyl chloride | 20.0 mmol, 30 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 40.0 mmol, 10 ml | CS(=O)C | C2H6OS
reactant | benzyl(2-hydroxyethyl)carbamate | 10.0 mmol, 45 ml, 1.95 g | C(C1=CC=CC=C1)OC(NCCO)=O | C10H13NO3
reactant | Triethylamine | 50.0 mmol, 6.93 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl (2-oxoethyl)carbamate | 930 mg, 48% | O=CCNC(OCC1=CC=CC=C1)=O | C10H11NO3
